US08563760B2
(17Z,20Z,23Z,26Z)-dotriaconta-17,20,23,26-tetraenoic acid
To a solution of (17Z,20Z,23Z,26Z)-12-(phenylsulfonyl)dotriaconta-17,20,23,26-tetraenoic acid (0.0643 g, 0.105 mmol) in methanol (8 mL) was added Na2HPO4 (0.074 g, 0.525 mmol) and 10% sodium amalgam (5.16 g, 2.308 mmol) and the resulting reaction mixture was stirred under nitrogen at room temperature for 40 h. The solvent was decanted and acidified (pH 4) with 1M HCl. The aqueous phase was extracted with DCM (3×10 mL), washed with brine (2×10 mL), dried over MgSO4, filtered and evaporated. The product from the crude was isolated by flash chromatography using 25% ethyl acetate/hexane as eluent to afford the title product as a light yellow oil (0.025 g, 51%). 1H NMR (CDCl3): δ 5.36 (m, 8H), 2.79 (m, 6H), 2.28 (t, 2H, J=6.7 Hz), 1.99 (m, 4H), 1.61 (m, 2H), 1.51-1.18 (m, 30H), 0.97 (t, 3H, J=6.8 Hz). m/z (APCI) 473.62 (M++1).

reactant | (17Z,20Z,23Z,26Z)-12-(phenylsulfonyl)dotriaconta-17,20,23,26-tetraenoic acid | 0.105 mmol, 0.0643 g | C1(=CC=CC=C1)S(=O)(=O)C(CCCCCCCCCCC(=O)O)CCCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC | C38H60O4S
solvent | methanol | 8 mL | CO | CH4O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
catalyst | sodium amalgam | 2.308 mmol, 5.16 g | [Na].[Hg]
product | (17Z,20Z,23Z,26Z)-dotriaconta-17,20,23,26-tetraenoic acid | 0.025 g, 51% | C(CCCCCCCCCCCCCCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C32H56O2
